US04268441
Cysteine ethyl ester hydrochloride (11.2 g, 0.06 mole) was suspended in 40 ml of triethylamine with vigorous stirring for one hour at room temperature. The triethylamine hydrochloride was filtered and filtrate was concentrated to give cysteine ethyl ester as an oil. The oil was dissolved in 30 ml of pyridine and allowed to react with 3.2 g (0.01 mole) of progesterone at room temperature for 3.5 days. The suspension that resulted was filtered and crystallized from ethyl acetate to give 2.7 g (mp 162°-165° C., 47% yield) of the desired product: IR(KBr) 1740 cm-1 (s) (C=O); 1H NMR (CDCl3) δ5.23 (s, 1, CH=C), 4.2 (q, J=7 Hz, 4, CH3CH2O), 4.2-3.6 (m, 2, O2CCHN), 3.50-2.65 (m, 4, CH2S), 1.55 (s, 3, CH3 --C20), 1.3 (t, J=7 Hz, 6, CH3CH2O), 1.03 (s, 3, CH3 --C10), 0.85 (s, 3, CH3 --C13), 2.6-0.6 (m, 19, CH2 and CH); 13C NMR (CDCl3) δ171.88 and 171.99 (CO2), 148.86 (C5) and 122.89 (C4); [α]24.5 D-24.3° (C=0.63, CHCl3).

reactant | Cysteine ethyl ester hydrochloride | 0.06 mole, 11.2 g | Cl.C(C)OC([C@@H](N)CS)=O
solvent | triethylamine | 40 ml | C(C)N(CC)CC | C6H15N
product | cysteine ethyl ester | C(C)OC([C@@H](N)CS)=O | C5H11NO2S
